US07173048B2
A solution of 8.5 g (22.51 mmol) of 2-(1-benzyl-2,3-dihydro-1H-indol-5-yl)-1,1,1,3,3,3-hexafluoro-propan-2-ol in 60 mL toluene was treated with 9.8 g (112 mmol) of MnO2 powder. The mixture was stirred for 10 hrs at RT and 8 hrs at 60° C. Filtration and evaporation of the solvent yielded 8.0 g (95%) of 2-(1-benzyl-1H-indol-5-yl)-1,1,1,3,3,3-hexafluoro-propan-2-ol, yellow solid, MS: 374 (MH+).

reactant | 2-(1-benzyl-2,3-dihydro-1H-indol-5-yl)-1,1,1,3,3,3-hexafluoro-propan-2-ol | 22.51 mmol, 8.5 g | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)C(C(F)(F)F)(C(F)(F)F)O | C18H15F6NO
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
catalyst | MnO2 | 112 mmol, 9.8 g | O=[Mn]=O
product | 2-(1-benzyl-1H-indol-5-yl)-1,1,1,3,3,3-hexafluoro-propan-2-ol | 8.0 g, 95% | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)C(C(F)(F)F)(C(F)(F)F)O | C18H13F6NO
